US04956359
N-Methyl-3-(3-methylphenoxy)-1-azetidinecarboxamide
A stirred solution of 3.92 g (0.01 mole) of 3-(3-methylphenoxy)-1-azetidinecarbonyl chloride in 15 ml of tetrahydrofuran was treated with 2.4 g (0.03 mole) of 40% aqueous monomethylamine and stirring continued for 17 hr. The reaction mixture was diluted with 200 ml of water. The reddish oil residue was cooled to -78° C. whereupon it crystallized (4.28 g). Recrystallization from benzene-ligroin gave 400 mg of fine white crystals, m.p. 143°-144° C. Addition of more ligroin yielded an additional 800 mg of "cream" colored crystalline product, m.p. 138°-142° C. The two fractions were combined and recrystallized from ethanol-isopropyl ether, yielding 600 mg (27.3%) of fine white crystals, m.p. 143°-144° C.

reactant | 3-(3-methylphenoxy)-1-azetidinecarbonyl chloride | 0.01 mole, 3.92 g | CC=1C=C(OC2CN(C2)C(=O)Cl)C=CC1 | C11H12ClNO2
reactant | monomethylamine | 0.03 mole, 2.4 g | CN | CH5N
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | water | 200 ml | O | H2O
product | N-Methyl-3-(3-methylphenoxy)-1-azetidinecarboxamide | 400 mg | CNC(=O)N1CC(C1)OC1=CC(=CC=C1)C | C12H16N2O2
